US06518277B1
2-Amino-N-(2-chlorophenyl)-4-fluorobenzamide (1c)
Prepared according to Procedure A using 2-amino-4-fluorobenzoic acid (1.15 g, 7.41 mmol) and SOCl2 (1.4 mL, 18.5 mmol) in benzene (25 mL), followed by 2-chloroaniline (1.6 mL, 14.8 mmol) and CHCl3 (25 mL). The product was chromatographed in CH2Cl2, then triturated from hexanes to provide 1.02 g of an off-white solid (52%). 1H NMR (CDCl3) δ: 12.91 (br s, 1H); 8.72 (dd, J=2.7, 12 Hz, 1H); 8.34 (dd, J=6.4, 9.2 Hz, 1H); 8.29 (dd, J=5.9, 8.8 Hz, 1H); 7.81 (dd, J=6.2, 8.8 Hz, 1H); 7.28 (dt, J=2.4, 8.4 Hz, 1H); 7.21 (dd, J=2.4, 9.0 Hz, 1H); 6.92 (ddd, J=2.4, 7.3, 9.1 Hz, 1H); 6.54 (ddd, J=2.4, 7.8, 8.8 Hz, 1H); 6.45 (dd, J=2.4, 11 Hz, 1H); 5.93 (br s, 2H). MS (ES): m/z 265.0 (M+).

reactant | 2-amino-4-fluorobenzoic acid | 7.41 mmol, 1.15 g | NC1=C(C(=O)O)C=CC(=C1)F | C7H6FNO2
reactant | SOCl2 | 18.5 mmol, 1.4 mL | O=S(Cl)Cl | Cl2OS
reactant | 2-chloroaniline | 14.8 mmol, 1.6 mL | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | CHCl3 | 25 mL | C(Cl)(Cl)Cl | CHCl3
solvent | benzene | 25 mL | C1=CC=CC=C1 | C6H6
product | 2-Amino-N-(2-chlorophenyl)-4-fluorobenzamide | 1.02 g, 52% | NC1=C(C(=O)NC2=C(C=CC=C2)Cl)C=CC(=C1)F | C13H10ClFN2O
